US07452886B2
A mixture of 1.1 g 9-(2,2-dimethyl-propyl)-8-methyl-9H-purine-2-carbonitrile, 1.7 g of N-bromosuccinimide and 116 mg dibenzoylperoxide was heated for 18 hours under reflux in 5 ml of CCl4. The mixture was evaporated and the residue was chromatographed on silicagel using hexanes/ethylacetate yielding 8-bromomethyl-9-(2,2-dimethyl-propyl)-9H-purine-2-carbonitrile as pale yellow wax.

reactant | 9-(2,2-dimethyl-propyl)-8-methyl-9H-purine-2-carbonitrile | 1.1 g | CC(CN1C2=NC(=NC=C2N=C1C)C#N)(C)C | C12H15N5
reactant | N-bromosuccinimide | 1.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 116 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-bromomethyl-9-(2,2-dimethyl-propyl)-9H-purine-2-carbonitrile | BrCC=1N(C2=NC(=NC=C2N1)C#N)CC(C)(C)C | C12H14BrN5
